Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.667744387216
[C:8]([H:9])([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.41205973704
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4],-0.44551438956
[C:1][C:2][O:3].[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.7311023501099998
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][H:4],1.5118084807299998
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.97107962047
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],1.04477443424
[C:7]([H:8])([H:9])[H:19].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.04211456468
[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[C:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.79059970916
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7][H:8].[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-4.3681178868
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],2.91282443961
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.55205260951
[C:1]#[C:2][H:3].[C:4]([O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][O:6])[C:7]([H:8])([H:9])[H:10],-4.24615090049
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],3.8613324546
[C:6]([H:7])[H:8].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.878138144380001
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.97515523485
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]1([H:9])[H:10]>>[H:1][O:2][C:3][C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10],2.83397091609
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7][O:8][H:9],2.8626471719
[H:1][O:2][C@@:3]1([H:4])[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.7302240836
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-6.4336648834800005
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.03262948715
[C:3][H:4].[H:1][C:2]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[H:9],-3.1537821241
[H:10].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-4.61650713503
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],3.42182490747
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11],1.18315641153
[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.04653424367
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3][C:4]#[C:5],6.97849590595
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],1.49782770571
